US07601856B2
Following the procedure of Example 1, tetrahydro-dibenzofuran-2-ylamine (0.94 g, 5.0 mmol) and p-chlorobenzoyl chloride (0.72 mL, 5.5 mmol) in pyridine (10 mL) provided 4-chloro-N-(6,7,8,9-tetrahydro-dibenzofuran-2-yl)-benzamide (1.0 g). Mp 214.0-214.5° C.; Anal. Calcd. for C19H16CINO2: C, 70.05; H, 4.95; N, 4.30; Found: C, 70.10; H, 4.72; N, 4.17.

reactant | tetrahydro-dibenzofuran-2-ylamine | 5.0 mmol, 0.94 g | C1C(CCC=2OC3=C(C21)C=CC=C3)N | C12H13NO
reactant | p-chlorobenzoyl chloride | 5.5 mmol, 0.72 mL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 4-chloro-N-(6,7,8,9-tetrahydro-dibenzofuran-2-yl)-benzamide | 1.0 g | ClC1=CC=C(C(=O)NC2=CC3=C(OC4=C3CCCC4)C=C2)C=C1 | C19H16ClNO2
